data/oMe_Silver.jsonl
{"reaction_id": "NR-237_1-c1ccc(N(=O)=O)cc1_2-C1CCCCC1_3-c1ccccc1_4-c1ncccc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["c1ccc(N(=O)=O)cc1N=[N+]=[N-]","P(C1CCCCC1)(c1ccccc1)(c1ncccc1)"],"products_smiles": ["c1ccc(N(=O)=O)cc1N","O=P(C1CCCCC1)(c1ccccc1)(c1ncccc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(N(=O)=O)cc1N=[N+]=N[P+](C1CCCCC1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(N(=O)=O)cc1N1N=NP1(C1CCCCC1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(N(=O)=O)cc1N=P(C1CCCCC1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(N(=O)=O)cc1[NH+]=P(C1CCCCC1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(N(=O)=O)cc1N[P](O)(C1CCCCC1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(N(=O)=O)cc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
